US06797723B1
Preparation of 2-(3-{3-[2-Ethyl-5-hydroxy-4-(3H-imidazol-4-yl)phenoxy]propoxy}-2-propyl-phenoxy)benzoic acid hydrochloride.
To a solution of 2-{3-[3-(4-acetyl-5-benzyloxy-2-ethylphenoxy)propoxy]-2-propyl-phenoxy}benzoic acid methyl ester (3.04 g, 5.09 mmol) in tetrahydrofuran (50 mL) cooled to −78° C. was added a solution of 1 M lithium hexamethyldisilazide in tetrahydrofuran (11.2 mL, 11.2 mmol) portion wise. After stirring for 20 min, trimethylsilyl chloride (2.6 mL. 20 mmol) was added and the mixture warmed to 0° C. and stirred for 30 min. The mixture was evaporated in vacuo and the residue dissolved in hexane. The resulting solution was filtered and concentrated in vacuo. The residue was dissolved in tetrahydrofuran (50 mL), cooled to 0° C., and treated with N-chlorosuccinimide (750 mg, 5.6 mmol). The mixture was warmed to room temperature and stirred for 30 min, then heated at reflux for 2 h. The mixture was cooled to room temperature and treated with water (4 mL) and a solution of 1 N tetra-n-butylammonium fluoride in tetrahydrofuran (6 mL). After stirring for 15 min the mixture was diluted in ether and washed once with water, once with saturated sodium chloride solution, dried (sodium sulfate), filtered, and concentrated in vacuo. Chromatography (silica gel, 10% ethyl acetate/90% hexane) of the residue provided 1.94 g (60%) of the title compound as a white solid. 1H NMR (CDCl3) δ 7.89 (d, J=8 Hz, 1H), 7.77 (s, 1H), 7.40 (m, 6H), 7.12 (d, J=9 Hz, 1H), 7.06 (d, J=8 Hz, 1H), 6.80 (d, J=8 Hz, 1H), 6.66 (d, J=8 Hz, 1H), 6.49 (s, 1H), 6.43 (d, J=8 Hz, 1H), 5.15 (s, 2H), 4.68.(s, 2H), 4.20 (q, J=6 Hz, 4H), 3.82 (s, 3H), 2.65 (t, J=7 Hz, 2H), 2.59 (q, J=7 Hz, 2H), 2.32 (quintet, J=6 Hz, 2H), 1.54 (hextet, J=8 Hz, 2H), 1.16 (t, J=8 Hz, 3H), 0.89 (t, J=7 Hz, 3H); TOF MS ES+ exact mass calculated for C37H40ClO7 (p+1): m/z=631.2463. Found: 631.2470; IR (CHCl3, cm−1) 2964, 1720, 1603, 1461. Anal. Calcd for C37H39ClO7: C, 70.41; H, 6.23. Found: C, 0.04; H, 5.97.

reactant | 2-{3-[3-(4-acetyl-5-benzyloxy-2-ethylphenoxy)propoxy]-2-propyl-phenoxy}benzoic acid methyl ester | 5.09 mmol, 3.04 g | COC(C1=C(C=CC=C1)OC1=C(C(=CC=C1)OCCCOC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C(C)=O)CC)CCC)=O | C37H40O7
reactant | lithium hexamethyldisilazide | 1 M | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | trimethylsilyl chloride | 20 mmol, 2.6 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | N-chlorosuccinimide | 5.6 mmol, 750 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | tetra-n-butylammonium fluoride | 1 N | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 11.2 mmol, 11.2 mL | O1CCCC1 | C4H8O
solvent | water | 4 mL | O | H2O
product | 2-(3-{3-[2-Ethyl-5-hydroxy-4-(3H-imidazol-4-yl)phenoxy]propoxy}-2-propyl-phenoxy)benzoic acid hydrochloride | 1.94 g, 60% | Cl.C(C)C1=C(OCCCOC=2C(=C(OC3=C(C(=O)O)C=CC=C3)C=CC2)CCC)C=C(C(=C1)C=1NC=NC1)O | InChI=1S/C30H32N2O6.ClH/c1-3-9-21-26(12-7-13-27(21)38-28-11-6-5-10-22(28)30(34)35)36-14-8-15-37-29-17-25(33)23(16-20(29)4-2)24-18-31-19-32-24;/h5-7,10-13,16-19,33H,3-4,8-9,14-15H2,1-2H3,(H,31,32)(H,34,35);1H
